US04265815
(A) (11β)-16-Chloro-17-(ethylthio)-9-fluoro-11-hydroxyandrosta-1,4,16-trien-3-one
A solution of 1.5 g of 17-(ethylthio)-9-fluoro-11β-hydroxyandrosta-1,4,16-trien-3-one in 70 ml of dry dichloromethane is stirred with 609 mg of N-chlorosuccinimide at room temperature under a nitrogen atmosphere for 2.5 hours. The resulting solution is diluted with 140 ml of chloroform; the chloroform solution is washed with saturated NaHCO3 solution and water, dried over anhydrous Na2SO4 and evaporated in vacuo to give 1.65 g of a foam. The foam is dissolved in chloroform-hexane (4:1) and chromatographed on a 60 g-silica gel column. Elution with chloroform-hexane (4:1) gives 1.2 g of a tlc-homogenous material. Crystallization from acetone-hexane gives 815 mg of an analytical specimen of the title compound, melting point 240°-241° C. (dec).

reactant | 17-(ethylthio)-9-fluoro-11β-hydroxyandrosta-1,4,16-trien-3-one | 1.5 g | C(C)SC=1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(C=C[C@]3(C)[C@]1([C@H](C2)O)F)=O | C21H27FO2S
reactant | N-chlorosuccinimide | 609 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
solvent | chloroform | 140 ml | C(Cl)(Cl)Cl | CHCl3
product | (11β)-16-Chloro-17-(ethylthio)-9-fluoro-11-hydroxyandrosta-1,4,16-trien-3-one | 1.65 g | ClC1=C([C@]2(C)[C@@H](C1)[C@@H]1CCC3=CC(C=C[C@]3(C)[C@]1([C@H](C2)O)F)=O)SCC | C21H26ClFO2S
